US08431604B2
2.2 N-(4-phenyl-1,3-thiazole-2-yl)thiourea
4.20 g N-{[(4-phenyl-1,3-thiazole-2-yl)amino]carbonothioyl}benzamide (339 mmol) were suspended in 40 ml methanol, were dissolved in aqueous sodium hydroxide (550 mg NaOH dissolved in 3 ml H2O) and were heated for 3 hours at reflux. The reaction mixture was evaporation-concentrated, the residue obtained was stirred with water and the precipitated solid was suction-isolated. After drying, 2.90 g of a light yellow solid were obtained.

reactant | N-{[(4-phenyl-1,3-thiazole-2-yl)amino]carbonothioyl}benzamide | 339 mmol, 4.20 g | C1(=CC=CC=C1)C=1N=C(SC1)NC(=S)NC(C1=CC=CC=C1)=O | C17H13N3OS2
reactant | water | O | H2O
solvent | methanol | 40 ml | CO | CH4O
solvent | sodium hydroxide | 3 ml, 550 mg | [OH-].[Na+]
product | N-(4-phenyl-1,3-thiazole-2-yl)thiourea | 2.90 g | C1(=CC=CC=C1)C=1N=C(SC1)NC(=S)N | C10H9N3S2
